US05272147
5-(2-Ethoxy-5-nitrophenyl)-1-methyl-3-n-propyl-1,6-dihydro-7H-pyrazolo[4,3-d]-pyrimidin-7-one
Concentrated nitric acid (0.5 ml) was added dropwise to a stirred solution of 5-(2-ethoxyphenyl)-1-methyl-3-n-propyl-1,6-dihydro-7H-pyrazolo[4,3-d]-pyrimidin-7-one (2.0 g, 0.0064 mol) in concentrated sulphuric acid (10 ml) at 0° C., an the resulting orange solution was stirred at room temperature for 18 hours. The reaction solution was then added dropwise to stirred ice and water (200 g) and the solid precipitate collected by filtration. This solid was then dissolved in dichloromethane (50 ml) and the solution washed successively with brine (2×30 ml) and water (30 ml), dried (Na2SO4) and evaporated under vacuum to give a yellow solid. Crystallisation from acetronitrile gave the title compound as yellow needles (1.40 g, 61%), m.p. 214°-216° C. Found: C,57.36; H,5.21; N,19.49. C17H19N5O4 requires C,57.13; H,5.36; N,19.60%.

reactant | nitric acid | 0.5 ml | [N+](=O)(O)[O-] | HNO3
reactant | 5-(2-ethoxyphenyl)-1-methyl-3-n-propyl-1,6-dihydro-7H-pyrazolo[4,3-d]-pyrimidin-7-one | 0.0064 mol, 2.0 g | C(C)OC1=C(C=CC=C1)C=1NC(C2=C(N1)C(=NN2C)CCC)=O | C17H20N4O2
reactant | water | 200 g | O | H2O
solvent | sulphuric acid | 10 ml | S(O)(O)(=O)=O | H2O4S
product | 5-(2-Ethoxy-5-nitrophenyl)-1-methyl-3-n-propyl-1,6-dihydro-7H-pyrazolo[4,3-d]-pyrimidin-7-one | 1.40 g, 61% | C(C)OC1=C(C=C(C=C1)[N+](=O)[O-])C=1NC(C2=C(N1)C(=NN2C)CCC)=O | C17H19N5O4
